US07524951B2
Pyridine (0.1 ml) was added to a solution of 0.23 g of the crude product of (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-{(1R)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-2-oxoethyl}-1-[[(4-nitrobenzyloxy)carbonyl]hydroxymethyl]azetidin-2-one in 2 ml of tetrahydrofuran under an argon atmosphere, and the mixture was cooled to −20° C. Thionyl chloride (0.09 ml) was added thereto, and the mixture was stirred at that temperature for one hr. The reaction mixture was diluted with ethyl acetate, and the diluted reaction mixture was washed with water and saturated brine and was then dried over anhydrous magnesium sulfate. The solvent was removed by evaporation to give a crude product of (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-{(1R)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-2-oxoethyl}-1-[[(4-nitrobenzyloxy)carbonyl]chloromethyl]azetidin-2-one. Triphenylphosphine (0.26 g) and 0.05 g of potassium iodide were added to a solution of this crude product in 2 ml of dimethylformamide, and the mixture was stirred at 60° C. for one hr. The reaction mixture was diluted with ethyl acetate, and the diluted reaction mixture was washed with water and saturated brine and was then dried over anhydrous magnesium sulfate. The solvent was removed by evaporation, and the residue was purified by thin layer chromatography (developed with 10% methanol/ethyl acetate) to give 0.19 g of (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-{(1R)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-2-oxoethyl}-1-[4-nitrobenzyloxycarbonyl(triphenylphosphoranylidene)methyl]azetidin-2-one.

reactant | Pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
reactant | (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-{(1R)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-2-oxoethyl}-1-[[(4-nitrobenzyloxy)carbonyl]hydroxymethyl]azetidin-2-one | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1[C@H](C(=O)C1=CN2C(S1)=C(N=C2)C(=O)C=2C=NC=CC2)C)C(O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O | C34H39N5O9SSi
reactant | Thionyl chloride | 0.09 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3S,4R)-3-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-4-{(1R)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-2-oxoethyl}-1-[[(4-nitrobenzyloxy)carbonyl]chloromethyl]azetidin-2-one | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N([C@@H]1[C@H](C(=O)C1=CN2C(S1)=C(N=C2)C(=O)C=2C=NC=CC2)C)C(Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])=O | C34H38ClN5O8SSi
